US05134231
In the same manner as in Reference Example 1-2 but using (S)-3-benzyloxymethyloxy-2-methylpropionic acid (0.69 g; 3.075 mmole), 1,1'-carbonyldiimidazole (0.60 g; 3.675 mmole) and malonic acid monobenzyl ester magnesium salt (1.50 g; 3.675 mmole), there was produced benzyl (S)-3-oxo-4-methyl-5-benzyloxymethoxypentanoate.

reactant | (S)-3-benzyloxymethyloxy-2-methylpropionic acid | 3.075 mmole, 0.69 g | C(C1=CC=CC=C1)OCOC[C@@H](C(=O)O)C | C12H16O4
reactant | 1,1'-carbonyldiimidazole | 3.675 mmole, 0.60 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | malonic acid monobenzyl ester magnesium salt | 3.675 mmole, 1.50 g | [Mg+2].C(C1=CC=CC=C1)OC(CC(=O)[O-])=O.C(CC(=O)[O-])(=O)OCC1=CC=CC=C1
product | benzyl (S)-3-oxo-4-methyl-5-benzyloxymethoxypentanoate | O=C(CC(=O)OCC1=CC=CC=C1)[C@H](COCOCC1=CC=CC=C1)C | C21H24O5
